US04563210
5-(Trifluoromethyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxylic acid (5.0 grams, 0.015 mole) and carbonyldiimidazole (2.74 grams, 0.017 mole) were dissolved in 35 ml of DMF. The solution was stirred for 10 minutes and ammonium hydroxide (8 ml) was then added. The reaction mixture was stirred at room temperature for 72 hours, then poured into 150 ml of ice/water. The product precipitated and was separated by filtration, dried, and recrystallized from toluene with charcoal, yielding 3.0 grams of 5-(trifluoromethyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxamide, mp=191°-193° C.

reactant | 5-(Trifluoromethyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxylic acid | 0.015 mole, 5.0 grams | FC(C1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)O)(F)F | C11H5Cl2F3N2O2
reactant | carbonyldiimidazole | 0.017 mole, 2.74 grams | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 8 ml | [OH-].[NH4+]
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 5-(trifluoromethyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxamide | 3.0 grams | FC(C1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)N)(F)F | C11H6Cl2F3N3O
